US07846960B2
2-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzo[b]thiophene-7-carboxylic Acid Ethyl Ester
In a resealable tube are placed bis(pinacolato)diboron (433.17 μmol; 110.00 mg), di-mu-chlorobis((1,2,5,6-eta)-1,5-cyclooctadiene)diiridium (6.50 μmoles; 4.41 mg), 4,4′-di-tert-butyl-2,2′-dipyridyl (13.00 μmoles; 3.49 mg). The tube is purged with nitrogen followed by anhydrous octane (2.60 mL). Benzo[b]thiophene-7-carboxylic acid ethyl ester (1.73 mmoles; 357.39 mg) is added. The mixture is stirred at 90° C. for 16 h. Diethyl ether is added to mixture and it is washed with HCl (1M) and water. The organic layer is dried (Na2SO4), filtered, and concentrated. Hexane is added. The resulting solid is filtered off and the solvent is removed to obtain 470 mg of a 1:1 mixture of starting material and desired compound. The mixture is used in the next step without further purification. LC-ES/MS m/e 333 (M+1).

reactant | bis(pinacolato)diboron | 433.17 μmol, 110.00 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | Benzo[b]thiophene-7-carboxylic acid ethyl ester | 1.73 mmoles, 357.39 mg | C(C)OC(=O)C1=CC=CC2=C1SC=C2 | C11H10O2S
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 2-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzo[b]thiophene-7-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=CC=CC2=C1SC(=C2)B2OC(C(O2)(C)C)(C)C | C17H21BO4S
